US04571423
Production of 2-octadecanoylaminopyrrolo(2,3-d)pyrimidin-4-one
Using 2-aminopyrrolo(2,3-d)pyrimidin-4-one and octadecanoyl chloride, the above-identified compound is produced by the same procedure as Reference Example 2.

reactant | 2-aminopyrrolo(2,3-d)pyrimidin-4-one | NC1=NC(C=2C(=N1)N=CC2)=O | C6H4N4O
reactant | octadecanoyl chloride | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
product | 2-octadecanoylaminopyrrolo(2,3-d)pyrimidin-4-one | C(CCCCCCCCCCCCCCCCC)(=O)NC1=NC(C=2C(=N1)N=CC2)=O | C24H38N4O2
